US03960970
A similar process is described by S. Ohshiro et al (Yakugaku Zasshi, 88, 417 (1968)). Here again the reaction of methyl vinyl ketone with excess mesityl oxide takes place in the presence of potassium hydroxide powder but without addition of tetrahydrofuran as the solvent. The piperitenone obtained is converted into a mixture of menthone and isomenthone by catalytic hydrogenation. However, in this process of yields of piperitenone are again only about 53%; furthermore, using this process the menthone/isomenthone mixture is obtained in only 64.6% yield and in a purity of only 89.8%. For this reason, the further reaction to give pure methol has to be carried out in an involved manner via menthone-oxime (Jap. Pat. No. 7,009,375) and menthylamine, which makes it doubtful whether the process is suitable for commercial operation.

reactant | menthone | C[C@@H]1CC[C@H](C(=O)C1)C(C)C | C10H18O
reactant | isomenthone | CC1CCC(C(=O)C1)C(C)C | C10H18O
product | piperitenone | 64.6% yield | CC1=CC(=O)C(=C(C)C)CC1 | C10H14O
